US06313153B1
Synthesis of (E)-N-(3-hydroxyphenacyl)-3-(3-pyridyl)-2-propenoic acid amide (Compound 160)
To a solution of (E)-N-[2-(3-hydroxyphenyl)-2-hydroxyethyl]-3-(3-pyridyl)-2-propenoic acid amide (568 g, 2 mmol) in dimethylformamide (4 ml), pyridinium dichromate (1.28 g, 1.7 eq.) was added under ice-cooling and stirred at room temperature for 10 hours. Then, water (4 ml) was added. Tar materials were filtered out on Celite and water (4 ml) was added to the filtrate and extracted with ethyl acetate. The solvent was distilled out under reduced pressure and the residue was solidified in ethanol to yield the titled compound (171 mg, 30%).

reactant | (E)-N-[2-(3-hydroxyphenyl)-2-hydroxyethyl]-3-(3-pyridyl)-2-propenoic acid amide | 2 mmol, 568 g | OC=1C=C(C=CC1)C(CNC(\C=C\C=1C=NC=CC1)=O)O | C16H16N2O3
reactant | pyridinium dichromate | 1.28 g, 1.7 eq. | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | water | 4 ml | O | H2O
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | (E)-N-(3-hydroxyphenacyl)-3-(3-pyridyl)-2-propenoic acid amide | 171 mg, 30% | OC=1C=C(C(CNC(\C=C\C=2C=NC=CC2)=O)=O)C=CC1 | C16H14N2O3
